US08076332B2
N-(2-Aminophenyl)-4-[3-[4-(2-dimethylaminoethylaminocarbonyl)phenyl]-1-(3-dimethylaminopropyl)ureidomethyl]benzamide (Compound No. 5-1)
1-[Bis(dimethylamino)methylene]-5-chloro-1H-benzo triazolium 3-oxide hexafluorophosphate (49 mg, 0.067 mmol) was added to a suspension of N-(2-aminophenyl)-4-[3-(4-carboxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]benzamide (Compound No. 4-1, 33 mg, 0.067 mmol), N,N-dimethylaminoethylenediamine (0.30 mL, 2.8 mmol) and N,N-diisopropylethylamine (0.023 mL, 0.13 mmol) in DMF (5.0 mL), and then the mixture was stirred at room temperature for 80 minutes. Saturated aqueous sodium hydrogen carbonate solution (30 mL) was added thereto, the whole was extracted with ethyl acetate (20 mL) twice, and then the organic layer was washed with brine (30 mL) twice. The organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 21 mg of the title compound as colorless oil. (Yield 57%)

reactant | 1-[Bis(dimethylamino)methylene]-5-chloro-1H-benzo triazolium 3-oxide hexafluorophosphate | 0.067 mmol, 49 mg | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC(=C2)Cl)[O-])N(C)C
reactant | N-(2-aminophenyl)-4-[3-(4-carboxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)C(=O)O)CCCN(C)C)=O | C27H31N5O4
reactant | N,N-dimethylaminoethylenediamine | 2.8 mmol, 0.30 mL | CNN(CCN)NC | C4H14N4
reactant | N,N-diisopropylethylamine | 0.13 mmol, 0.023 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | N-(2-Aminophenyl)-4-[3-[4-(2-dimethylaminoethylaminocarbonyl)phenyl]-1-(3-dimethylaminopropyl)ureidomethyl]benzamide | 21 mg, Yield 57% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C(=O)NC1=CC=C(C=C1)C(=O)NCCN(C)C)CCCN(C)C)=O | C31H41N7O3
